US06153768
Synthesis of (3RS,4RS)-4-[4-(2-chloroethyloxy)phenyl]-7-methoxymethyloxy-3-[4-(methoxymethyloxy)phenyl]-3-methylthiochroman
To methyl ethyl ketone solution (3 ml) of (3RS,4RS)-4-(4-hydroxyphenyl)-7-methoxymethyloxy-3-[4-(methoxymethyloxy)phenyl]-3-methyl-thiochroman (126 mg, 0.28 mmol) were added potassium carbonate (96 mg, 0.70 mmol) and 1-bromo-2-chloroethane (115 ml, 1.38 mmol), and the mixture was heated under refluxing for 70 hours. After adding water, the reaction solution was extracted with ethyl acetate. The extract was distilled under reduced pressure to remove the solvent and the crude product thus obtained was then purified using silica gel plate (ethyl acetate:hexane=1:2) to obtain 69 mg (yield: 48%) of the title compound.

reactant | methyl ethyl ketone | 3 ml | C(C)C(=O)C | C4H8O
reactant | (3RS,4RS)-4-(4-hydroxyphenyl)-7-methoxymethyloxy-3-[4-(methoxymethyloxy)phenyl]-3-methyl-thiochroman | 0.28 mmol, 126 mg | OC1=CC=C(C=C1)C1C(CSC2=CC(=CC=C12)OCOC)(C)C1=CC=C(C=C1)OCOC | C26H28O5S
reactant | potassium carbonate | 0.70 mmol, 96 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 1-bromo-2-chloroethane | 1.38 mmol, 115 ml | BrCCCl | C2H4BrCl
solvent | water | O | H2O
product | (3RS,4RS)-4-[4-(2-chloroethyloxy)phenyl]-7-methoxymethyloxy-3-[4-(methoxymethyloxy)phenyl]-3-methylthiochroman | 69 mg, yield: 48% | ClCCOC1=CC=C(C=C1)C1C(CSC2=CC(=CC=C12)OCOC)(C)C1=CC=C(C=C1)OCOC | C28H31ClO5S
